US08877774B2
Step 3; 5-(1,3-Dioxolan-2-yl)pentyl 2-(3-(((tert-butoxycarbonyl)amino)-(phenyl)methyl)phenoxy)acetate
The title compound was prepared as described in Example 54 Step 1 with -(3-(((tert-Butoxycarbonyl)amino)(phenyl)methyl)phenoxy)acetic acid and 2-(5-bromopentyl)-1,3-dioxolane 4-((3-(azido(phenyl)methyl)phenoxy)methyl)benzoic acid and 2-(3-chloropropyl)-1,3-dioxolane respectively.

reactant | (3-(((tert-Butoxycarbonyl)amino)(phenyl)methyl)phenoxy)acetic acid | C(C)(C)(C)OC(=O)NC(C=1C=C(OCC(=O)O)C=CC1)C1=CC=CC=C1 | C20H23NO5
reactant | 2-(5-bromopentyl)-1,3-dioxolane 4-((3-(azido(phenyl)methyl)phenoxy)methyl)benzoic acid | N(=[N+]=[N-])C(C=1C=C(OCC2=CC=C(C(=O)O)C=C2)C=CC1)C1=CC=CC=C1.BrCCCCCC1OCCO1
reactant | 2-(3-chloropropyl)-1,3-dioxolane | ClCCCC1OCCO1 | C6H11ClO2
product | 5-(1,3-Dioxolan-2-yl)pentyl 2-(3-(((tert-butoxycarbonyl)amino)-(phenyl)methyl)phenoxy)acetate | C(C)(C)(C)OC(=O)NC(C=1C=C(OCC(=O)OCCCCCC2OCCO2)C=CC1)C1=CC=CC=C1 | C28H37NO7
